data/mechanisms/records/IMS9-EQ9.25a.json
{"mechanism_id": "IMS9-EQ9.25a", "species": [{"species_id": "ethylhexanal_molecular_ion", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:10])[CH2:3][CH:2]([CH2:8][CH3:9])[CH:1]=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formyl_cation_mz29", "mapped_smiles": "[CH:1]#[O+:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "heptyl_radical", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:10])[CH2:3][CH:2][CH2:8][CH3:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethylhexanal_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["formyl_cation_mz29", "heptyl_radical"]}], "steps": [{"step_id": "step_alpha_cho", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_cho", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cho", "support_type": "textbook_proposed", "locator": {"page": 248, "equation": "9.25", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (top 'alpha' arrow)"}, "confidence": 0.75, "curator_note": "Substrate as drawn: the 2-ethylhexanal molecular ion, labelled 'm/z 128' under the structure. The skeleton is printed as C2H5-CH(H)-CH2-CH(C2H5)-CHO with the gamma hydrogen on C4 drawn EXPLICITLY, an aldehyde H on C1, and '+.' printed above the carbonyl oxygen. LOCALIZATION (convention B): the charge and odd electron are written on the oxygen exactly where the page prints them, [CH:1]=[O+:7], not carried only in the JSON fields. This is the TOP channel: an arrow labelled 'alpha' rising to the right from the molecular ion to 'HC≡O+ / m/z 29'. Radical-site alpha cleavage of the C1-C2 bond, charge retained on the one-carbon fragment. Book draws 0 arc(s) for this step: the arrow carries only the label 'alpha' and the product is written as the formula HC≡O+ with no structure and no fishhook anywhere on this branch. All THREE moves are therefore curator-supplied -- the canonical radical-site triple: <1> the oxygen odd electron into the forming C-O pi bond, <2> one electron of the breaking C1-C2 sigma bond into that same bond (raising C1-O7 from double to TRIPLE, which is what the printed HC≡O+ shows), <3> the other C1-C2 electron departing with the heptyl radical. MS CONTEXT: this page prints no ionisation conditions, so 70 eV EI is the corpus house default and is disclosed here rather than read off the page (the same treatment as IMS9-EQ9.19a/b and IMS8-EQ8.114). Figure 9.8 on printed p247 is the 2-ethylhexanal spectrum and would supply abundances, but it is NOT on this page and the scheme itself prints no percentage, so convention F forbids importing an intensity: every peak_assignment here carries status 'proposed' with no relative_intensity."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_29", "species_id": "formyl_cation_mz29", "step_id": "step_alpha_cho", "observed_mz": 29.0022, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
